US04416687
Preparation of ethyl [3,5-bis(trifluoromethyl)phenoxy]acetate
To a stirred solution containing 11.5 g (0.05 mole) of 3,5-ditrifluoromethylphenol, 3.3 g (0.05 mole) of 85% potassium hydroxide, 200 ml of N,N-dimethylformamide and 10 ml of water, 0.055 mole of ethyl bromoacetate was added in one portion. The stirred reaction mixture was heated at 80°-90° C. for 46 hours. After cooling 25° C., 500 ml of water and 500 ml of ethyl ether were added; and stirring was continued for 15 minutes. The separated ether layer was washed with water until neutral to litmus and dried over sodium sulfate. The ether was removed in vacuo at a maximum temperature of 80°-90° C. at 1-2 mm of Hg. A product was obtained with ND25 of 1.4226 with a yield of 85%.

reactant | 3,5-ditrifluoromethylphenol | 0.05 mole, 11.5 g | C1=C(C=C(C=C1C(F)(F)F)O)C(F)(F)F | C8H4F6O
reactant | potassium hydroxide | 0.05 mole, 3.3 g | [OH-].[K+]
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
reactant | ethyl bromoacetate | 0.055 mole | BrCC(=O)OCC | C4H7BrO2
solvent | ethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | water | 500 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | ethyl [3,5-bis(trifluoromethyl)phenoxy]acetate | yield of 85% | FC(C=1C=C(OCC(=O)OCC)C=C(C1)C(F)(F)F)(F)F | C12H10F6O3
